US06362341B1
Synthesis of N-(1-Phenylethanesulfonyl)-L-prolyl-L-phenylalanine
PhCH2CH2SH was treated with Cl2 in a rapidly stirred mixture of CHCl3 and H2O, and then the CHCl3 layer was washed with 5% NaHSO3 and sat. NaCl, dried with MgSO4, filtered, and concentrated to give PhCH2CH2SO2Cl. This product was treated with Pro-OtBu and Et3N in CH2Cl2 to give, after aqueous workup, PhCH2CH2SO2-Pro-OtBu. This product was treated with HCO2H, and the mixture was evaporated to give PhCH2CH2SO2-Pro-OH. This product was treated with HCl.Phe-OtBu, EDAC, HOBT, and Et3N in CH2Cl2 to give, after aqueous workup and flash chromatography, PhCH2CH2SO2-Pro-Phe-OtBu. This product was treated with HCO2H, and the mixture was evaporated to give the title compound as a clear oil.

reactant | PhCH2CH2SO2-Pro-Phe-OtBu | C1(=CC=CC=C1)CCS(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1 | C26H34N2O5S
solvent | HCO2H | C(=O)O | CH2O2
product | N-(1-Phenylethanesulfonyl)-L-prolyl-L-phenylalanine | C1(=CC=CC=C1)C(C)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1 | C22H26N2O5S
